US09422253B2
3-Amino-5,6-bis(4-methoxylphenyl)-1,2,4-triazine (2; R=4-MeO) [CEN-127]
Prepared by reacting 4,4′-dimethoxybenzil with aminoguanidine bismesylate using the above procedure. The title compound was obtained as pale yellow plates in 92.5%, mpt=179-181°

reactant | 4,4′-dimethoxybenzil | COC1=CC=C(C=C1)C(=O)C(=O)C1=CC=C(C=C1)OC | C16H14O4
reactant | aminoguanidine bismesylate | S(C)(=O)(=O)O.S(C)(=O)(=O)O.NNC(=N)N
product | 3-Amino-5,6-bis(4-methoxylphenyl)-1,2,4-triazine | NC=1N=NC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H16N4O2
